US04232009
For example, in standard laboratory tests, (i) by intravenous administration to the allobarbital anaesthetized dog, (5Z,13E)-(9α,11α,15S)-6,9-epoxy-11,15-dihydroxy-20-chloroprosta-5,13-dienoic acid methyl ester produces a fall in blood pressure of 14 mmHg and 34 mmHg lasting 4 and 5 minutes at the doses of 0.1 and 0.2 μg/kg animal body weight, respectively, (5Z,13E)-(9α,11α,15S,16RS)-6,9-epoxy-11,15-dihydroxy-16-methyl-20-chloroprosta-5,13-dienoic acid methyl ester produces a fall in blood pressure of 20 mmHg and 48 mmHg lasting 11 and 15 minutes at the doses of 0.1 and 0.2 μg/kg animal body weight, respectively, (5Z,13E)-(9α,11α,15S,17R)-6,9-epoxy-11,15-dihydroxy-17-methyl-20-chloroprosta-5,13-dienoic acid methyl ester produces a fall in blood pressure of 10 mmHg lasting 3 minutes at the dose of 100 μg/kg animal body weight, (5Z,13E)-(9α,11α,15R)-6,9-epoxy-11,15-dihydroxy-15-[1-(4-fluorobutyl)cyclobutyl]-16,17,18,19,20-pentanorprosta-5,13-dienoic acid methyl ester produces a fall in blood pressure of 24 mmHg, 40 mmHg and 52 mmHg lasting 8, 20 and 15 minutes at the doses of 1, 2 and 4 μg/kg animal body weight, respectively, and (5Z,13E)-(9α,11α,15S)-6,9-epoxy-11,15-dihydroxy-15-[3-(2-chloroethyl)cyclopentyl]-16,17,18,19,20-pentanorprosta-5,13-dienoic acid methyl ester produces a fall in blood pressure of 22 mmHg, 32 mmHg and 50 mmHg lasting 9, 11 and 15 minutes at the doses of 0.1, 0.2 and 0.4 μg/kg animal body weight, respectively, (ii) (5Z,13E)-(9α,11α,15S)-6,9-epoxy-11,15-dihydroxy-20-chloroprosta-5,13-dienoic acid methyl ester, (5Z,13E)-(9α,11α,15S,16RS)-6,9-epoxy-11,15-dihydroxy-16-methyl-20-chloroprosta-5,13-dienoic acid methyl ester, (5Z,13E)-(9α,11α,15S,17R)-6,9-epoxy-11,15-dihydroxy-17-methyl-20-chloroprosta-5,13-dienoic acid methyl ester, (5Z,13E)-(9α,11α,15R)-6,9-epoxy-11,15-dihydroxy-15-[1-(4-fluorobutyl)cyclobutyl]-16,17,18,19,20-pentanorprosta-5,13-dienoic acid methyl ester and (5Z,13E)-(9α,11α,15S)-6,9-epoxy-11,15-dihydroxy-15-[3-(2-chloroethyl)cyclopentyl]-16,17,18,19,20-pentanorprosta-5,13-dienoic acid methyl ester produce a 50% inhibition of adenosine diphosphate-induced blood platelet aggregation in platelet-rich plasma of rats at the concentrations of 4.0×10-3, 1.5×10-3, 3.3×10-3, 1.8×10-2 and 2.3×10-3 μg/ml, respectively, in comparison with controls, and (iii) (5Z,13E)-(9α,11α,15S,16RS)-6,9-epoxy-11,15-dihydroxy-16-methyl-20-chloroprosta-5,13-dienoic acid methyl ester and (5Z,13E)-(9α,11α,15R)-6,9-epoxy-11,15-dihydroxy-15-[1-(4-fluorobutyl)cyclobutyl]-16,17,18,19,20-pentanorprosta-5,13-dienoic acid methyl ester stimulate uterine contraction in the pregnant female rat when administered intravenously on the 20th day of gestation at the doses of 10 and 10-20 μg/kg animal body weight, respectively.

reactant | allobarbital | C=CCC1(C(=O)NC(=O)NC1=O)CC=C | C10H12N2O3
reactant | (5Z,13E)-(9α,11α,15S)-6,9-epoxy-11,15-dihydroxy-20-chloroprosta-5,13-dienoic acid methyl ester | COC(CCC\C=C/1\C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](CCCCCCl)O)O)O1)=O | C21H33ClO5
product | (5Z,13E)-(9α,11α,15S,16RS)-6,9-epoxy-11,15-dihydroxy-16-methyl-20-chloroprosta-5,13-dienoic acid methyl ester | COC(CCC\C=C/1\C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](C(CCCCCl)C)O)O)O1)=O | C22H35ClO5
